US05866576
1-(3,4-Dihydroxybutyl)-3,7-dimethylxanthine (3.98 g, 14.9 mmol) was stirred with hydrogen bromide (9.2 mL, 12.06 g of a 30% solution in acetic acid, 44.7 mmol) for 90 minutes. The mixture was then added to a flask containing 200 mL aqueous saturated sodium bicarbonate solution and 75 mL dichloromethane. After 10 minutes of vigorous stirring, the layers were separated and the aqueous portion washed with dichloromethane (3×150 mL). The organic portions were combined, dried (magnesium sulfate), and evaporated to give 1-(3-acetoxy-4-bromobutyl)-3,7-dimethylxanthine(5.6 g). Without further purification, the bromoacetate was taken up in methanol (50 mL) and treated with a solution of sodium methoxide (prepared from 0.414 g, 12.2 mmol sodium, and 25 mL methanol). After 30 minutes, most of the solvent was removed under reduced pressure and the residue extracted with 25% ethanol/dichloromethane (3×150 mL). The organic portions were combined, dried (magnesium sulfate) and concentrated under reduced pressure to give an off-white solid which is purified by column chromatography over silica gel using an ethyl acetate eluant to yield 2.2 g (58% yield) 1-(3,4-Oxidobutyl)-3,7-dimethylxanthine.

reactant | 1-(3,4-Dihydroxybutyl)-3,7-dimethylxanthine | 14.9 mmol, 3.98 g | OC(CCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C11H16N4O4
reactant | hydrogen bromide | Br | BrH
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-acetoxy-4-bromobutyl)-3,7-dimethylxanthine | 5.6 g | C(C)(=O)OC(CCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C13H17BrN4O4
